data/oMe_Silver.jsonl
{"reaction_id": "NR-108_1-C(=O)OC_2-C1CCCCC1_3-C(=O)C","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(C(=O)C)CCCC(C(=O)OC)C1CCCCC1"],"products_smiles": ["N(C(=O)C)CCCC(C(=O)OC)(C1CCCCC1)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](C(=O)C)CCCC(C(=O)OC)C1CCCCC1","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(C(=O)C)CCC[C](C(=O)OC)C1CCCCC1","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(C(=O)C)CCCC(C(=O)OC)(C1CCCCC1)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
{"reaction_id": "NR-201_1-C_2-c2ccc(C(F)(F)F)cc2","level": "medium","name": "Nazarov Cyclization Reaction","reactants_smiles": ["C(C(C))=CC(=O)C=C(C(c2ccc(C(F)(F)F)cc2))","CS(=O)(=O)O"],"products_smiles": ["C(c2ccc(C(F)(F)F)cc2)C1=CC(=O)CC1(C)"],"conditions": "H+ OSO2Me","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C))=CC(=[OH+])C=CC(c2ccc(C(F)(F)F)cc2)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases electrophilicity and stabilizes the developing positive charge via resonance, facilitating oxyallyl cation formation under strong acid."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C1(=CC(C([CH+]1)C(C))C(c2ccc(C(F)(F)F)cc2))O","step_weight": 0,"rationale": "The oxyallyl cation undergoes a conrotatory 4π-electrocyclization, favored by orbital symmetry and leading to a cyclopentenyl cation stabilized by adjacent substituents."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(=CC(C(=C1)C(c2ccc(C(F)(F)F)cc2))C(C))O","step_weight": 0,"rationale": "Deprotonation relieves positive charge on the cyclopentenyl cation, driven by formation of a more conjugated alkene system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c2ccc(C(F)(F)F)cc2)C1=CC(=O)CC1(C(C))","step_weight": 0,"rationale": "Acid-catalyzed tautomerization converts the enol to the more stable conjugated ketone, favored by carbonyl bond strength and extended π-conjugation."}],"description": "Under strong acid conditions, the divinyl ketone is protonated to activate the carbonyl toward cation formation. This enables oxyallyl cation generation, which undergoes a Nazarov 4π-electrocyclization to form a cyclopentenyl cation. Subsequent deprotonation and tautomerization yield the thermodynamically stable cyclopentenone product."}
